US07176212B2
4-[3-(N,N-dimethyl)amino-2-hydroxypropyl(N-methyl)amino]nitrobezene
4-Nitro-N-methylaniline (1.00 g, 6.6 mmol) was dissolved in DMF (50 ml) and cooled to 0° C. in an ice bath. Sodium hydride (290 mg, 7.2 mmol, 60% dispersion in mineral oil) was added portion wise over 30 mins to give an orange/brown solution. To this was added epibromohydrin (0.62 ml, 7.2 mmol) dropwise and the mixture left to stir at ambient temperature for 12 hours. The mixture was evaporated to give a yellow oily residue, to which was added dimethylamine 2.0 M in MeOH (66 ml, 0.13 mol) and left to stir at ambient temperature for 12 hours. The mixture was evaporated to give a yellow solid, then taken up in DCM (100 ml), washed with H2O (20 ml), brine (20 ml), dried over MgSO4 and evaporated to dryness to give the title product as an orange solid (1.44 g, 86%). NMR (300 MHz): 2.2 (s, 6H), 2.3 (t, 2H), 3.1 (s, 3H), 3.3–3.6 (m, 2H), 3.8 (br s, 1H), 4.8 (d, 1H) 6.8 (d, 2H), 8.0 (d, 2H); m/z: (ES+) 254.0 (MH+).

reactant | 4-Nitro-N-methylaniline | 6.6 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
reactant | Sodium hydride | 7.2 mmol, 290 mg | [H-].[Na+]
reactant | epibromohydrin | 7.2 mmol, 0.62 ml | C(Br)C1CO1 | C3H5BrO
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | MeOH | 0.13 mol, 66 ml | CO | CH4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N,N-dimethyl)amino-2-hydroxypropyl(N-methyl)amino]nitrobezene | 1.44 g, 86% | CN(C)CC(CN(C)C1=CC=C(C=C1)[N+](=O)[O-])O | C12H19N3O3
